US06384226B2
A suspension of potassium monoethyl oxalate (84.3 g; 0.54 mols) in methylene chloride (395 mL) is added dropwise with phosphorous oxychloride (82.8 g; 0.54 mols) keeping the temperature at about 30° C. After 4÷6 hours, 2-(4-methylphenyl)-6-methylimidazo[1,2-a]-pyridine (100.0 g; 0.45 mols) is added, keeping the temperature below 35° C. The resulting suspension is added dropwise with triethylamine (50.5 g; 0.50 mols) keeping the mixture at the reflux temperature. After one hour under these conditions, the reaction mixture is cooled to 5÷10° C. and poured into a suspension of sodium carbonate (95 g; 0.89 mols) in water (500 mL) keeping the temperature below 35° C. The phases are separated and the upper aqueous phase is reextracted with methylene chloride (45 mL). The combined organic phases are washed with water (45 mL) and concentrated to a residue under vacuum. The solid residue is taken up in ethanol (590 mL), heated to dissolution and left to crystallize. After cooling to about 0° C. the solid is filtered, washed with ethanol and dried at 50° C. under vacuum to obtain ethyl 2-(4-methylphenyl)-6-methylimidazo[1,2-a]-pyridine-3-glyoxalate (141.5 g, 99.5% titre, 97.5% yield).

reactant | potassium monoethyl oxalate | 0.54 mols, 84.3 g | C(C(=O)[O-])(=O)OCC.[K+]
reactant | phosphorous oxychloride | 0.54 mols, 82.8 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(4-methylphenyl)-6-methylimidazo[1,2-a]-pyridine | 0.45 mols, 100.0 g | CC1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)C)C1 | C15H14N2
reactant | triethylamine | 0.50 mols, 50.5 g | C(C)N(CC)CC | C6H15N
reactant | sodium carbonate | 0.89 mols, 95 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | 395 mL | C(Cl)Cl | CH2Cl2
solvent | water | 500 mL | O | H2O
product | ethyl 2-(4-methylphenyl)-6-methylimidazo[1,2-a]-pyridine-3-glyoxalate | 141.5 g, 97.5% yield | CC1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)C)C1C(C(=O)OCC)=O | C19H18N2O3
